US04065617
A. 3,5-dibenzylidene-4-piperidone, hydrochloride
A stirred solution of 10 g of 4-piperidone, hydrochloride, hydrate and 14 g of benzaldehyde in 50 ml of ethanol is cooled to 10° C and treated dropwise with 25 ml of concentrated hydrochloric acid (temperature maintained at less than 25° C during the addition) and refluxed for 4 hours; the product begins to separate soon after refluxing begins. After standing at room temperature for about 16 hours, the resulting solid is filtered, washed with cold ethanol and with ether, and air-dried yielding 19.4 g of material, melting point 272°-274° C, dec.

reactant | 4-piperidone, hydrochloride | 10 g | Cl.N1CCC(CC1)=O
reactant | benzaldehyde | 14 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3,5-dibenzylidene-4-piperidone, hydrochloride | 19.4 g | Cl.C(C1=CC=CC=C1)=C1CNCC(C1=O)=CC1=CC=CC=C1 | InChI=1S/C19H17NO.ClH/c21-19-17(11-15-7-3-1-4-8-15)13-20-14-18(19)12-16-9-5-2-6-10-16;/h1-12,20H,13-14H2;1H
